US20010027196A1
5-Fluoro-6-furan-2-Yl-N4-[2-(4-methoxy-phenyl)-ethyl]-pyrimidine-2,4-diamine
From trifluoromethanesulfonic acid 2-amino-5-fluoro-6-furan-2-yl-pyrimidin-4-yl ester and 2-(4-methoxyphenyl)ethylamine in DME. ES-MS m/e (%): 329 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 2-amino-5-fluoro-6-furan-2-yl-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)F)C=1OC=CC1 | C9H5F4N3O4S
reactant | 2-(4-methoxyphenyl)ethylamine | COC1=CC=C(C=C1)CCN | C9H13NO
solvent | DME | COCCOC | C4H10O2
product | 5-Fluoro-6-furan-2-Yl-N4-[2-(4-methoxy-phenyl)-ethyl]-pyrimidine-2,4-diamine | FC=1C(=NC(=NC1C=1OC=CC1)N)NCCC1=CC=C(C=C1)OC | C17H17FN4O2
